US08304577B2
A 0° C. solution of (R)-Methyl 2-(tert-butoxycarbonylamino)-2-(4-hydroxyphenyl)acetate (2.8 g, 10 mmol), (S)-2-methyl-1-butanol (1.1 mL, 10 mmol), triphenylphosphine (2.6 g, 10 mmol), and tetrahydrofuran (100 mL) was treated dropwise with diisopropylazodicarboxylate (1.9 mL, 10 mmol) via syringe. The resulting reaction mixture was allowed to warm to room temperature and maintained overnight. The reaction was concentrated and the residue was purified by column chromatography on silica gel (5%→10% ethyl acetate in hexanes) to afford (2R)-methyl 2-(tert-butoxycarbonylamino)-(4-((S)-2-methyl-butoxy)-phenyl)acetate (2.8 g, 80% yield) as a clear, colorless oil: 1H NMR (400 MHz, CDCl3) δ 7.27 (d, J=7.3 Hz, 2H), 6.88 (d, J=8.6 Hz, 2H), 5.49 (d, J=6.6 Hz, 1H), 5.26 (d, J=7.3 Hz, 1H), 3.81 (dd, J=9.1, 6.1 Hz, 1H), 3.73 (s, 3H), 3.69-3.76 (m, 1H), 1.86 (dq, J=13.1, 6.5 Hz, 1H), 1.52-1.61 (m, 1H), 1.45 (s, 9H), 1.22-1.33 (m, 2H), 1.02 (d, J=6.8 Hz, 3H), 0.95 (t, J=7.5 Hz, 3H); LRMS (ESI) m/e 352.2 [(M+H)+, calcd for C19H30NO5 352.5].

reactant | (R)-Methyl 2-(tert-butoxycarbonylamino)-2-(4-hydroxyphenyl)acetate | 10 mmol, 2.8 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)OC)C1=CC=C(C=C1)O | C14H19NO5
reactant | (S)-2-methyl-1-butanol | 10 mmol, 1.1 mL | C[C@H](CO)CC | C5H12O
reactant | triphenylphosphine | 10 mmol, 2.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 10 mmol, 1.9 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | (2R)-methyl 2-(tert-butoxycarbonylamino)-(4-((S)-2-methyl-butoxy)-phenyl)acetate | 2.8 g, 80% yield | C(C)(C)(C)OC(=O)N[C@@H](C(=O)OC)C1=CC=C(C=C1)OC[C@H](CC)C | C19H29NO5
